US04180395
2-(3,5-Dichloro-6-fluoro-2-pyridyloxy)ethanol;
Mixture of 2-(3,5-Dichloro-6-fluoro-2-pyridyloxy)-1-propanol and 1-(3,5-dichloro-6-fluoro-2-pyridyloxy)-2-propanol;

reactant | 2-(3,5-Dichloro-6-fluoro-2-pyridyloxy)-1-propanol | ClC=1C(=NC(=C(C1)Cl)F)OC(CO)C | C8H8Cl2FNO2
reactant | 1-(3,5-dichloro-6-fluoro-2-pyridyloxy)-2-propanol | ClC=1C(=NC(=C(C1)Cl)F)OCC(C)O | C8H8Cl2FNO2
product | 2-(3,5-Dichloro-6-fluoro-2-pyridyloxy)ethanol | ClC=1C(=NC(=C(C1)Cl)F)OCCO | C7H6Cl2FNO2
